US08835411B2
Diethyl 1,4-dioxaspiro[4.5]decane-8,8-dicarboxylate
The procedure described in Pearson at al., J. Org. Chem., 1997, 62, 5284 was followed with a minor modification. A mixture of diethyl 4-oxocyclohexane-1,1-dicarboxylate, Intermediate 2, (120.6 g, 463 mmol), ethane-1,2-diol (110 mL, 1973 mmol), and para-toluene sulfonic acid mono hydrate (1.0 g, 5.26 mmol) in Benzene (250 mL) was stirred at room temp under N2 for 2 days. The mixture was diluted with Et2O (1 L) and washed with water (300 mL×3), sat'd NaHCO3 (100 mL) and then with brine, dried (MgSO4), and concentrated to dryness to provide the title compound (132.7 g, 463 mmol, 100% yield) as an amber oil HPLC: 2.38 min (AP 70% at 220 nm). LCMS: m/z 287 (M+H). 1H NMR (500 MHz, CDCl3) δ ppm 1.17 (6H, t, J=7.2 Hz, 9,12-CH3), 1.60 (4H, t, J=6.4 Hz, 2,6-CH2), 2.09 (4H, t, J=6.4 Hz, 3,5-CH2), 3.86 (4H, s, 13,14-OCH2), 4.11 (4H, q, J=7.2 Hz, 8,11-OCH2). 13C NMR (126 MHz, CDCl3) δ ppm 14.1 (9,12-CH3), 29.0 (3,5-CH2), 31.6 (2,6-CH2), 53.9 (4-C), 61.3 (8,11-OCH2), 64.3 (13,14-OCH2), 107.7 (1-OCO), 171.2 (7,10-OC═O).

reactant | diethyl 4-oxocyclohexane-1,1-dicarboxylate | O=C1CCC(CC1)(C(=O)OCC)C(=O)OCC | C12H18O5
reactant | ethane-1,2-diol | 1973 mmol, 110 mL | C(CO)O | C2H6O2
reactant | para-toluene sulfonic acid mono hydrate | 5.26 mmol, 1.0 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | Benzene | 250 mL | C1=CC=CC=C1 | C6H6
solvent | Et2O | 1 L | CCOCC | C4H10O
product | Diethyl 1,4-dioxaspiro[4.5]decane-8,8-dicarboxylate | 463 mmol, 132.7 g, 100% yield | O1CCOC12CCC(CC2)(C(=O)OCC)C(=O)OCC | C14H22O6
